US07960377B2
To a solution of 1-(4-(trifluoromethyl)phenylsulfonyl)-2,3-dihydro-1H-pyrido[2,3-b][1,4]oxazine-7-carbonitrile (30 mg, 0.081 mmol) in EtOH (2 mL) was added 2,2-dimethylpropane-1,3-diamine (41.5 mg, 0.406 mmol) and sulfur (41.7 mg, 0.162 mmol). The reaction was heated to 80° C. and stirred at that temperature for 6 h. LCMS analysis identified the product as the predominant component of the reaction mixture. The reaction mixture was concentrated in vacuo and the resulting paste was purified by flash column chromatography using a gradient elution of hexanes with 20-100% EtOAc to provide 7-(5,5-dimethyl-1,4,5,6-tetrahydropyrimidin-2-yl)-1-(4-(trifluoromethyl)phenylsulfonyl)-2,3-dihydro-1H-pyrido[2,3-b][1,4]oxazine (18.7 mg, 0.039 mmol, 48.1% yield) as an off white solid. LCMS (+ESI) m/z=455.1 [M+H]+; 1H-NMR (CD3OD) δ 8.51 (d, 1H), 8.26 (d, 1H), 8.01 (d, 2H), 7.90 (d, 2H), 3.98 (s, 4H), 3.15 (s, 4H), 1.05 (s, 6H).

reactant | 1-(4-(trifluoromethyl)phenylsulfonyl)-2,3-dihydro-1H-pyrido[2,3-b][1,4]oxazine-7-carbonitrile | 0.081 mmol, 30 mg | FC(C1=CC=C(C=C1)S(=O)(=O)N1C2=C(OCC1)N=CC(=C2)C#N)(F)F | C15H10F3N3O3S
reactant | 2,2-dimethylpropane-1,3-diamine | 0.406 mmol, 41.5 mg | CC(CN)(CN)C | C5H14N2
reactant | sulfur | 0.162 mmol, 41.7 mg | [S] | S
solvent | EtOH | 2 mL | CCO | C2H6O
product | 7-(5,5-dimethyl-1,4,5,6-tetrahydropyrimidin-2-yl)-1-(4-(trifluoromethyl)phenylsulfonyl)-2,3-dihydro-1H-pyrido[2,3-b][1,4]oxazine | 0.039 mmol, 18.7 mg, 48.1% yield | CC1(CN=C(NC1)C1=CC2=C(OCCN2S(=O)(=O)C2=CC=C(C=C2)C(F)(F)F)N=C1)C | C20H21F3N4O3S
